US03947473
By the procedure described in Example 6, (±)-4-(2,5-diacetoxy-3,4,6-trimethylphenyl)butan-2-one was treated with the anion from trimethylphosphonoacetate. The crude (±)-methyl 5-(2,5-diacetoxy-3,4,6-trimethylphenyl)-3-methyl-2-pentenoate thus obtained, upon saponification with base as in Example 6, yielded (±)-6-hydroxy-2,5,7,8-tetramethylchroman-2-acetic acid as a light tan powder, m.p. 169°-171.5°.

reactant | (±)-4-(2,5-diacetoxy-3,4,6-trimethylphenyl)butan-2-one | C(C)(=O)OC1=C(C(=C(C(=C1C)C)OC(C)=O)C)CCC(C)=O | C17H22O5
reactant | trimethylphosphonoacetate | CC(C)(C(=O)[O-])P(=O)(O)OC
product | (±)-6-hydroxy-2,5,7,8-tetramethylchroman-2-acetic acid | OC=1C(=C2CCC(OC2=C(C1C)C)(CC(=O)O)C)C | C15H20O4
